US05728650
B. Preparation of 3-(butylamino)propane-1,1-bisphosphonic acid
A solution of N-butyl-3,3-bis(diethoxyphosphinyl)propionamide (1.40 g, 3.5 mmol) in THF (9 mL) was cooled to 0° C., and borane-methyl sulfide (0.90 ml, 9.0 mmol) was added via syringe. The reaction was stirred at 0° C. for 5 minutes, then warmed to 65° C. for 3 hours. The reaction mixture was cooled to 0° C. and 6N HCl (6 ml) was added carefully. The solvent was removed in vacuo, and the residue was repeatedly concentrated from methanol (3×10 mL). The product was dissolved in 12N HCl and heated at reflux for 20 hours. After cooling, the volatile materials were removed under vacuum, the residue was dissolved in water (10 mL) and then concentrated to give 1.05 g of Compound No. 158 as a hygroscopic glass.

reactant | N-butyl-3,3-bis(diethoxyphosphinyl)propionamide | 3.5 mmol, 1.40 g | C(CCC)NC(CC(P(=O)(OCC)OCC)P(=O)(OCC)OCC)=O | C15H33NO7P2
reactant | borane methyl sulfide | 9.0 mmol, 0.90 ml | B.CSC
reactant | HCl | 6N, 6 ml | Cl | ClH
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 3-(butylamino)propane-1,1-bisphosphonic acid | 1.05 g | C(CCC)NCCC(P(O)(=O)O)P(O)(=O)O | C7H19NO6P2
